US08048899B2
To a solution of 0.72 g (8.56 mmol) of NaHCO3 and 1.08 g (8.56 mmol) of Na2SO3 (4.6 mmol) in water (4.5 mL) are added 1 g (4.28 mmol) of 1,3-benzothiazol-6-sulfonyl chloride. The reaction is heated at 80° C. for 2 h. The solvent is removed under reduced pressure. The filtrate is concentrated under reduced pressure to give 1,3-benzothiazol-6-sulfinic acid sodium salt.

reactant | NaHCO3 | 8.56 mmol, 0.72 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 8.56 mmol, 1.08 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 1,3-benzothiazol-6-sulfonyl chloride | 4.28 mmol, 1 g | S1C=NC2=C1C=C(C=C2)S(=O)(=O)Cl | C7H4ClNO2S2
solvent | water | 4.5 mL | O | H2O
product | 1,3-benzothiazol-6-sulfinic acid sodium salt | [Na+].S1C=NC2=C1C=C(C=C2)S(=O)[O-] | InChI=1S/C7H5NO2S2.Na/c9-12(10)5-1-2-6-7(3-5)11-4-8-6;/h1-4H,(H,9,10);/q;+1/p-1
